US08487093B2
Step 2: (2S,5R)—N-[2-(Dimethylamino)pyridin-4-yl]-6-hydroxy-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxamide
Palladium on carbon (10.4 mg; 10% Pd/C) was added to a solution of (2S,5R)-6-(benzyloxy)-N-[2-(dimethylamino)pyridin-4-yl]-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxamide (47.8 mg, 0.121 mmol) in methanol (2 mL) and the resulting mixture was stirred under hydrogen (balloon) overnight. HPLC analysis showed reaction complete. The reaction mixture was filtered through a microfilter and the filtrate was concentrated under vacuum to afford the title compound as a colorless oil which was used in the next step without further purification.

reactant | (2S,5R)-6-(benzyloxy)-N-[2-(dimethylamino)pyridin-4-yl]-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxamide | 0.121 mmol, 47.8 mg | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)NC2=CC(=NC=C2)N(C)C | C21H25N5O3
catalyst | Palladium on carbon | 10.4 mg | [Pd] | Pd
solvent | methanol | 2 mL | CO | CH4O
product | (2S,5R)—N-[2-(Dimethylamino)pyridin-4-yl]-6-hydroxy-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxamide | CN(C1=NC=CC(=C1)NC(=O)[C@H]1N2C(N([C@H](CC1)C2)O)=O)C | C14H19N5O3
